US05514773
To a solution of ethyl (R)-2-acetoxy-3-(4-methoxy-3-dimethylaminophenyl)propionate(1.56 g) in benzyl alcohol (3.7 ml)and benzene (7.4 ml) was added p-toluenesulfonic acid (0.82 g)and heated under reflux for 6 hours. After cooling, the solvent wasevaporated in vacuo, and the gained crude product was purified bysilica gel column chromatography. The residue was eluted withmixed solvent of hexane, ethyl acetate, and ethanol (60:35:5, v/v).The fractions containing the desired product were combined andevaporated in vacuo to obtain benzyl (R)-2-hydroxy-3-(4-methoxy-3-dimethylaminophenyl)propionate(0.93 g).

reactant | ethyl (R)-2-acetoxy-3-(4-methoxy-3-dimethylaminophenyl)propionate | 1.56 g | C(C)(=O)O[C@@H](C(=O)OCC)CC1=CC(=C(C=C1)OC)N(C)C | C16H23NO5
reactant | p-toluenesulfonic acid | 0.82 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzyl alcohol | 3.7 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 7.4 ml | C1=CC=CC=C1 | C6H6
product | benzyl (R)-2-hydroxy-3-(4-methoxy-3-dimethylaminophenyl)propionate | 0.93 g | O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)OC)N(C)C | C19H23NO4
